US06458909B1
b) Synthesis of 3,4-bis(2-Methylpropyloxy)bromobenzene
1,2-Bis(-2-methylpropyloxy)benzene (359.61 g, 1.62 mol) and 500 ml of CH2Cl2 were placed in the reaction vessel and admixed with a little iron powder. While cooling, bromine (266.88 g, 1.78 mol) (mixed with about 200 ml of CH2Cl2) was slowly added dropwise. The mixture was stirred for about 20 hours at room temperature. For the work-up, the mixture was stirred with aqueous Na2SO3 solution and the iron powder was subsequently filtered off. The organic phase was then shaken twice with NaHCO3 solution and subsequently washed with water until neutral. After drying, the organic phase was evaporated.

reactant | 1,2-Bis(-2-methylpropyloxy)benzene | 1.62 mol, 359.61 g | CC(COC1=C(C=CC=C1)OCC(C)C)C | C14H22O2
reactant | bromine | 1.78 mol, about 200 ml, 266.88 g | BrBr | Br2
reactant | Na2SO3 | [O-]S(=O)[O-].[Na+].[Na+]
catalyst | iron | [Fe] | Fe
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | 3,4-bis(2-Methylpropyloxy)bromobenzene | CC(COC=1C=C(C=CC1OCC(C)C)Br)C | C14H21BrO2
